US04521241
A suspension of 19.5 g of 1,3-dihydro-4-nitrobenzo[c]furan-1-one in 100 ml of boron trifluoride etherate was cooled to 0°-5° under nitrogen. 125 ml of a 1M solution of borane-tetrahydrofuran complex was added dropwise below 10°. The orange suspension was allowed to warm to ambient temperature (H2 evolution), and the reaction mixture exothermed to 30°. When the exotherm subsided (15-20 minutes), the mixture was refluxed 2.5 hours. The reaction mixture was cooled, decanted from some brown solids, and concentrated in vacuo to a yellow oil. The oil was cooled in an ice bath and acidified with dilute hydrochloric acid (H2 evolution), then diluted with 300 ml water, and the suspension was extracted with ether. The organic solution was washed with brine, dried over magnesium sulfate, filtered, and the solvent evaporated in vacuo. The resulting yellow solid was purified by chromatography, eluting with methylene chloride to give 15.4 g of 1,3-dihydro-4-nitrobenzo[c]furan as a pale yellow solid, m.p. 104°-108°.

reactant | 1,3-dihydro-4-nitrobenzo[c]furan-1-one | 19.5 g | [N+](=O)([O-])C1=CC=CC=2C(OCC21)=O | C8H5NO4
solvent | boron trifluoride etherate | 100 ml | B(F)(F)F.CCOCC
product | 1,3-dihydro-4-nitrobenzo[c]furan | 15.4 g | [N+](=O)([O-])C1=CC=CC=2COCC21 | C8H7NO3
